US04254260
A mixture of 3-carbamoyloxymethyl-7-(3-oxo-4-bromobutyramido)-3-cephem-4-carboxylic acid (0.52 g.) and potassium thiocyanate (0.174 g.) in acetonitrile (10 ml.) was stirred for 6 hours at room temperature, and then acetonitrile was distilled off therefrom. To the residue were added ethyl acetate (50 ml.) and a saturated aqueous solution of sodium chloride (20 ml.), and the mixture was adjusted to pH 2 with 50% phosphoric acid with stirring, and then ethyl acetate layer was separated therefrom. The remaining aqueous layer was further extracted with ethyl acetate. The ethyl acetate layers were combined together, dried over magnesium sulfate, treated with activated carbon, and then the solvent was distilled off therefrom. The residue was pulverized in diethyl ether, collected by filtration and then dried to give 3-carbamoyloxymethyl-7-(3-oxo-4-thiocyanatobutyramido)-3-cephem-4-carboxylic acid (0.36 g.).

reactant | 3-carbamoyloxymethyl-7-(3-oxo-4-bromobutyramido)-3-cephem-4-carboxylic acid | 0.52 g | C(N)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(CC(CBr)=O)=O)=O | C13H14BrN3O7S
reactant | potassium thiocyanate | 0.174 g | [S-]C#N.[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-carbamoyloxymethyl-7-(3-oxo-4-thiocyanatobutyramido)-3-cephem-4-carboxylic acid | 0.36 g | C(N)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(CC(CSC#N)=O)=O)=O | C14H14N4O7S2
